US06087480
0.002 g of ammonium vanadate and 4 g of aluminium oxide granules containing 0.5% by weight of metallic palladium and having a particle size of 3.2 mm (from Acros Organics) are added to a suspension consisting of 250 ml of methanol and 9.6 g of 4-nitrophthalimide. After displacing the air with nitrogen, the latter is replaced by hydrogen at atmospheric pressure and the suspension is stirred at room temperature for 43 hours. During this time, 97.6% of the theoretical amount of hydrogen, based on the nitrophthalimide, is absorbed. The resulting suspension is then sieved through a sieve having a mesh width of 1 mm. The material remaining on the sieve is washed with methanol and the methanol is subsequently removed from the combined methanol phases by means of a rotary evaporator. Drying at 60° C. under reduced pressure (125 mbar) gives 8.1 g (100%) of 4-aminophthalimide.

reactant | aluminium oxide | 4 g | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | 4-nitrophthalimide | 9.6 g | [N+](=O)([O-])C=1C=C2C(C(=O)NC2=O)=CC1 | C8H4N2O4
reactant | hydrogen | [H][H] | H2
reactant | nitrophthalimide | [N+](=O)([O-])C1=C2C(C(=O)NC2=O)=CC=C1 | C8H4N2O4
catalyst | ammonium vanadate | 0.002 g | N.O[V](=O)=O
catalyst | palladium | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 4-aminophthalimide | 8.1 g, 100% | NC=1C=C2C(C(=O)NC2=O)=CC1 | C8H6N2O2
